US07807709B2
E. (3S,4S)-3-(tert-Butyl-dimethyl-silanyloxymethyl)4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester
To a well stirred mixture of (3S,4S)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (8.2 g, 23.73 mmol) and Dess-Martin periodinane (10.06 g, 23.73 mmol) in CH2Cl2 (60 mL), slowly wet CH2Cl2 (0.47 mL of water in 60 mL of CH2Cl2) is added. The clear solution becomes cloudy toward the end of wet CH2Cl2 addition and is further stirred over-night. Then concentrated to a few mL of solvent by rotary evaporation and taken up in Et2O. A solution of 1:1 10% Na2S2O3/saturated aqueous NaHCO3 is added. The layers are separated and the organic extract is washed successively with H2O and brine. The aqueous washings are back-extracted with Et2O, and this organic layer is washed with H2O and brine. The combined organic layers are dried with Na2SO4, filtered and concentrated. The crude mixture is used in the next step without further purification. TLC, Rf (CH2Cl2/MeOH 95:5)=0.42. MS (LC-MS): 244.2 [M+H-Boc]+; tR (HPLC, C18 column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 6.45 min.

reactant | (3S,4S)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 23.73 mmol, 8.2 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CO)C(O[SiH2]C(C)(C)C)(C)C | C17H35NO4Si
reactant | Dess-Martin periodinane | 23.73 mmol, 10.06 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.47 mL | C(Cl)Cl | CH2Cl2
product | (3S,4S)-3-(tert-Butyl-dimethyl-silanyloxymethyl)4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C=O)C(O[SiH2]C(C)(C)C)(C)C | C17H33NO4Si
